US09079445B2
Deionized water 600 g, a monomer mixture consisting of vinyl chloride monomer 438.8 g (97.5% by weight on the basis of the total amount of whole charged monomer) and vinyl acetate 11.2 g (2.5% by weight on the basis of the total amount of whole charged monomer), and potassium persulfate 2.25 g were charged into a 2.5 L autoclave. This reactive mixture was stirred by a stirring blade so as to maintain a rotation speed of 120 rpm, and the polymerization was initiated by raising temperature of the reaction mixture up to 60° C. A 5% by weight aqueous solution of sodium dodecyl benzene sulfonate 180 g (2% by weight on the basis of the total amount of whole charged monomer) were continuously added from the polymerization initiation to 4 hr after the initiation. When the polymerization system had a polymerization pressure drop of 0.6 MPa from the saturated vapor pressure of vinyl chloride monomer at 60° C., the polymerization was terminated, and the remaining monomer was recovered to obtain the vinyl chloride-vinyl acetate type emulsion.

reactant | vinyl chloride | 438.8 g | C(=C)Cl | C2H3Cl
reactant | vinyl acetate | 11.2 g | C(C)(=O)OC=C | C4H6O2
reactant | potassium persulfate | 2.25 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium dodecyl benzene sulfonate | 180 g | C1(=CC=CC=C1)S(=O)(=O)OCCCCCCCCCCCC.[Na]
solvent | water | 600 g | O | H2O
product | vinyl chloride-vinyl acetate | C(C)(=O)OC=C.C(=C)Cl | InChI=1S/C4H6O2.C2H3Cl/c1-3-6-4(2)5;1-2-3/h3H,1H2,2H3;2H,1H2
